* C:\Users\cosmo\OneDrive\Documents\LTspiceXVII\VCO.asc
M1 N015 N014 N025 0 CMOSN l=180n w=1u
M2 N016 N015 N026 0 CMOSN l=180n w=1u
M3 N017 N016 N022 0 CMOSN l=180n w=1u
M4 N018 N017 N023 0 CMOSN
M5 N009 N014 N015 N001 CMOSP l=180n w=1u
M6 N010 N015 N016 N001 CMOSP l=180n w=1u
M7 N011 N016 N017 N001 CMOSP l=180n w=1u
M8 N012 N017 N018 N001 CMOSP l=180n w=1u
M9 N001 N008 N009 N002 CMOSP l=180n w=1u
M10 N001 N008 N010 N003 CMOSP l=180n w=1u
M11 N001 N008 N011 N004 CMOSP l=180n w=1u
M12 N001 N008 N012 N005 CMOSP l=180n w=1u
M13 N025 N030 0 N032 CMOSN l=180n w=1u
M14 N026 N030 0 N033 CMOSN l=180n w=1u
M15 N022 N030 0 N027 CMOSN l=180n w=1u
M16 N023 N030 0 N028 CMOSN l=180n w=1u
M17 N014 N018 N024 0 CMOSN l=180n w=1u
M18 N013 N018 N014 N001 CMOSP l=180n w=1u
M19 N001 N008 N013 N006 CMOSP l=180n w=1u
M20 N024 N030 0 N029 CMOSN l=180n w=1u
V1 N030 0 1.5
M21 N008 N030 0 N031 CMOSN l=180n w=1u
M22 N001 N008 N008 N007 CMOSP l=180n w=1u
V2 N001 0 1.8
M23 N019 N014 0 0 CMOSN l=180n w=1u
M24 N001 N014 N019 N001 CMOSP l=180n w=1u
M25 N020 N019 0 0 CMOSN l=180n w=1u
M26 N001 N019 N020 N001 CMOSP l=180n w=1u
M27 N021 N020 0 0 CMOSN l=180n w=1u
M28 N001 N020 N021 N001 CMOSP l=180n w=1u
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\cosmo\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.INCLUDE tsmc018.lib
.op 10n
.backanno
.end
